US05472946
To a stirred solution of 1.92 g NaH (60%, washed with pet ether) in dry THF at room temperature under N2 was added dropwise a solution of 7.06 g of ethyl 2-pyrrolidone-5-carboxylate in 20 mL of THF. The mixture was refluxed for 1 h, cooled to room temperature, followed by dropwise addition of 1.3 equivalents of 1-bromododecane. After additional reflux overnight and workup, the crude oil was subjected to flash chromatography (silica, 8:2 pet ether/EtOAc) to give 3.14 g of ethyl 1--N-dodecyl-2-pyrrolidone-5-carboxylate as a clear oil: NMR (CDCl3) δ 4.2(m), 3.68(m), 2.9(m), 2.6-2.2(m), 2.1(m), 1.6-1.0(m), 0.9(t).

reactant | NaH | 1.92 g | [H-].[Na+]
reactant | ethyl 2-pyrrolidone-5-carboxylate | 7.06 g | N1C(CCC1C(=O)OCC)=O | C7H11NO3
reactant | 1-bromododecane | 1.3 equivalents | BrCCCCCCCCCCCC | C12H25Br
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl 1--N-dodecyl-2-pyrrolidone-5-carboxylate | 3.14 g | C(CCCCCCCCCCC)N1C(CCC1C(=O)OCC)=O | C19H35NO3
